US20010020034A1
To a mixture of 2-Cyano-3-mercapto-3-phenoxycarbonylamino-thioacrylimidic acid 4-methoxy-benzyl ester (11 g, 28 mmol) and ethyl acetate (250 mL) was added, at 0° C., pyridine (4.4 g, 55 mmol). A solution of iodine (7.0 g, 28 mmol) in 350 mL of ethyl acetate was added dropwise over 1 hour. The resulting suspension was stirred for 1 hour, treated with 200 mL of 1 M HCl and filtered, affording 7.0 g (64%) of [4-cyano-3-(4-methoxy-benzylsulfanyl)-isothiazol-5-yl]-carbamic acid phenyl ester as a colorless solid. The filtrate was extracted with 1 l of ethyl acetate, and the organic phase was washed with aqueous NaHCO3, dried over Na2SO4, filtered and concentrated, yielding an additional 2.8 g (26%) of [4-cyano-3-(4-methoxy-benzylsulfanyl)-isothiazol-5-yl]-carbamic acid phenyl ester. 1H NMR (400 MHz, CDCl3) δ 11.95 (s, 1H), 7.35 (t, 2H, J=8.4 Hz), 7.20 (m, 3H), 7.13 (d, 2H, J=8.0 Hz), 6.78 (t, 2H, J=8.6 Hz), 4.34 (s, 2H), 3.73 (s, 3H) ppm; MS (APCl, m/z): 398 [M+H]+.

reactant | 2-Cyano-3-mercapto-3-phenoxycarbonylamino-thioacrylimidic acid 4-methoxy-benzyl ester | 28 mmol, 11 g | COC1=CC=C(CSC(C(=C(NC(=O)OC2=CC=CC=C2)S)C#N)=N)C=C1 | C19H17N3O3S2
reactant | pyridine | 55 mmol, 4.4 g | N1=CC=CC=C1 | C5H5N
reactant | iodine | 28 mmol, 7.0 g | II | I2
reactant | HCl | 1 M, 200 mL | Cl | ClH
solvent | ethyl acetate | 350 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | [4-cyano-3-(4-methoxy-benzylsulfanyl)-isothiazol-5-yl]-carbamic acid phenyl ester | 7.0 g, 64% | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)SCC1=CC=C(C=C1)OC)C#N)=O | C19H15N3O3S2
